US07388015B2
2-Chloro-N-{4-methyl-5-[2-(3-nitro-phenylamino)-pyrimidin-4-yl]-thiazol-2-yl}-acetamide [60]
A solution of [4-(2-amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(3-nitro-phenyl)-amine (0.33 g, 1.0 mmol) in dry DMF (3 mL) was cooled on an ice-water bath. Chloroacetyl chloride (0.22 g, 2.0 mmol) and pyridine (80 μL) were added. After stirring at room temperature for 18 h, the product was isolated as a brown solid by preparative RP-HPLC (Vydac 218TP1022, 9 mL/min) using a gradient from 10-70% MeCN in 0.1% aq CF3COOH over 40 min. Anal. RP-HPLC: tR=20.62 min (Vydac 218TP54, 0-60% MeCN in 0.1% aq CF3COOH over 20 min, 1 mL/min, 25° C., purity>97%). 1H-NMR (DMSO-d6) δ: 2.45 (s, 3H, CH3), 4.12 (s, 2H, CH2), 7.03(d, 1H, J=5.2 Hz, pyrimidinyl-H), 7.42 (m, 1H, Ph-H), 7.63 (m, 1H, Ph-H), 8.01 (m, 1H, Ph-H), 8.41 (d, 1H, J=5.2 Hz, pyrimidinyl-H), 8.64 (s, 1H, Ph-H).

reactant | [4-(2-amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(3-nitro-phenyl)-amine | 1.0 mmol, 0.33 g | NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC(=CC=C1)[N+](=O)[O-] | C14H12N6O2S
reactant | Chloroacetyl chloride | 2.0 mmol, 0.22 g | ClCC(=O)Cl | C2H2Cl2O
reactant | pyridine | 80 μL | N1=CC=CC=C1 | C5H5N
reactant | MeCN | CC#N | C2H3N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | CF3COOH | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-Chloro-N-{4-methyl-5-[2-(3-nitro-phenylamino)-pyrimidin-4-yl]-thiazol-2-yl}-acetamide | ClCC(=O)NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC(=CC=C1)[N+](=O)[O-] | C16H13ClN6O3S
